data/oMe_Silver.jsonl
{"reaction_id": "NR-217_1-C1CCCCC1_2-C(C)(C)C","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(C1CCCCC1)C(C(C)(C)C)[Si](C)(C)C"],"products_smiles": ["C(C1CCCCC1)=C(C(C)(C)C)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C1CCCCC1)C(C(C)(C)C)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCCC1)=C(C(C)(C)C)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
{"reaction_id": "NR-324_1-c1ccc(C(F)(F)F)cc1_2-c1sccc1_3-C#N_4-c1sccc1_5-c1ccc(F)cc1","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["c1ccc(C(F)(F)F)cc1C(c1sccc1)=C(C#N)C(c1sccc1)c1ccc(F)cc1","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["c1ccc(C(F)(F)F)cc1C(c1sccc1)=C(C#N)C(c1sccc1)(c1ccc(F)cc1)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C(c1sccc1)=C(C#N)[C](c1sccc1)c1ccc(F)cc1","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C(c1sccc1)=C(C#N)C(c1sccc1)(c1ccc(F)cc1)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
